US08975443B2
2,2,7,7-Tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphepane
A round bottom flask was charged with 2,2,7,7-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphepan-4-one (1.06 g, 2.29 mmol, 1.0 equiv) and purged with nitrogen for 15 minutes. Nitrogen-sparged diethylene glycol (12.0 mL, 126 mmol, 55 equiv) was added and the flask was equipped with a Claisen adapter and a Dean-Stark trap. The mixture was charged with hydrazine hydrate (1.01 mL, 11.4 mmol, 5 equiv, 55 wt % hydrazine) and potassium hydroxide (641 mg, 11.4 mmol, 5 equiv). The mixture was immersed in an oil bath at 175° C. under a nitrogen atmosphere. The temperature of the bath was gradually increased to 210° C. over 40 minutes and kept at that temperature for 7 hours. The reaction mixture was cooled to room temperature under a positive pressure of nitrogen and then the reaction mixture was diluted with heptane (20 mL) and ethyl acetate (20 mL). The phases were partitioned, and the organic layer was collected. The aqueous layer was washed with ethyl acetate (3×20 mL). The combined organic fractions were washed once with aqueous saturated sodium chloride (50 mL), dried over sodium sulfate, filtered, and concentrated on a rotary evaporator. The crude product was purified by silica gel column chromatography (80-g column; gradient: 1.5 column volumes heptane, ramp up to 92:8 heptane:ethyl acetate over 8.5 column volumes, hold at 92:8 for 2 column volumes) to afford the title compound as a white solid (810 mg, >99 area % by HPLC, 79% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.00-7.83 (m, 1H), 7.33-7.26 (m, 2H), 7.22-7.13 (m, 1H), 6.97 (s, 2H), 2.91 (hept, J=6.9 Hz, 1H), 2.48 (hept, J=6.7 Hz, 2H), 1.77-1.60 (m, 6H), 1.60-1.47 (m, 2H), 1.29 (d, J=6.9 Hz, 6H), 1.21 (dd, J=8.2, 4.4 Hz, 12H), 0.96 (d, J=6.7 Hz, 6H), 0.82 (s, 3H), 0.78 (s, 3H). 13C NMR (100 MHz, CDCl3) δ ppm 148.0, 147.7, 147.2, 145.8, 137.0 (d, J=34 Hz), 136.7, 136.2 (d, J=2 Hz), 131.7 (d, J=7 Hz), 126.9, 125.1, 119.9, 46.3 (d, J=17 Hz), 35.1, 34.8, 34.3, 32.1, 31.9, 31.1 (d, J=3 Hz), 28.8 (d, J=3 Hz), 26.7, 26.2 (d, J=3 Hz), 24.4, 22.9 (d, J=2 Hz). 31P NMR (CDCl3, 202 MHz) δ ppm 20.1 (s). HRMS (TOF-ESI+) calcd for [M, C31H47P]+ 450.3415, found 450.3429.

reactant | 2,2,7,7-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphepan-4-one | 2.29 mmol, 1.06 g, 1.0 equiv | CC1(P(C(CCC(C1)=O)(C)C)C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C | C31H45OP
reactant | diethylene glycol | 126 mmol, 12.0 mL, 55 equiv | C(COCCO)O | C4H10O3
reactant | hydrazine hydrate | 11.4 mmol, 1.01 mL, 5 equiv | O.NN
reactant | potassium hydroxide | 11.4 mmol, 641 mg, 5 equiv | [OH-].[K+]
solvent | heptane | 20 mL | CCCCCCC | C7H16
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2,2,7,7-Tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphepane | 810 mg, 79% yield | CC1(P(C(CCCC1)(C)C)C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C | C31H47P
